US08304419B2
To a solution of methyl 3-chloro-4-[(dimethylamino)carbonyl]-1H-pyrrole-2-carboxylate (0.038 g, 0.165 mmol) in THF (3 mL) and water (1 mL) was added lithium hydroxide (0.039 g, 1.648 mmol). The reaction mixture was stirred overnight at 35° C. The solvent was evaporated and the resulting solid placed under high vacuum. To the intermediate mixture was added DMF (1 mL), HATU (0.075 g, 0.198 mmol), DIPEA (0.043 ml, 0.247 mmol) and 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.051 g, 0.165 mmol). The solution was stirred for 2 h at RT. Purication was accomplished by HPLC. The desired fractions were neutralized with saturated sodium bicarbonate, extracted with EtOAc (3×5 mL), the organic layers combined, dried over sodium sulfate, filtered and evaporated to afford 3-chloro-N2-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-N4,N4-dimethyl-1H-pyrrole-2,4-dicarboxamide (0.0053 g, 6% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 12.16 (br. s., 1H) 8.13 (t, 1H) 7.83 (d, 1H) 7.46-7.54 (m, 3 H) 7.38 (t, 1H) 7.16 (d, 1H) 4.56 (d, 2H) 2.95 (s, 6H). MS: m/z 509.1 (M+1).

reactant | methyl 3-chloro-4-[(dimethylamino)carbonyl]-1H-pyrrole-2-carboxylate | 0.165 mmol, 0.038 g | ClC1=C(NC=C1C(=O)N(C)C)C(=O)OC | C9H11ClN2O3
reactant | lithium hydroxide | 1.648 mmol, 0.039 g | [OH-].[Li+]
reactant | HATU | 0.198 mmol, 0.075 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.247 mmol, 0.043 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.165 mmol, 0.051 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-chloro-N2-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-N4,N4-dimethyl-1H-pyrrole-2,4-dicarboxamide | 0.0053 g, 6% yield | ClC1=C(NC=C1C(=O)N(C)C)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F | C22H16Cl3FN4O3
